US08053438B2
To a mixture of cesium carbonate (0.505 g, 1.55 mmol), 1-(4-(3-chloropyrazin-2-yl)piperidin-1-yl)ethanone (0.129 g, 0.538 mmol), and 6-chloropyridin-3-ol (0.140 g, 1.08 mmol) was added NMP (2 mL). The reaction mixture was degassed and heated to 130° C. for 2 h. The reaction mixture was diluted with Teac. The organic phase was washed with water (1×), brine (1×), dried over MgSO4, filtered, and concentrated. Purification by flash column chromatography on silica gel (50% to 100% Teac (10% MeOH) in hexanes) gave 1(4-(3-(6-chloropyridin-3-yloxy)pyrazin-2-yl)piperidin-1-yl)ethanone as a colorless oil that was used in the next step without further purification. MS (ESI, pos. ion) m/z: 333.2 (M+1).

reactant | cesium carbonate | 1.55 mmol, 0.505 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(4-(3-chloropyrazin-2-yl)piperidin-1-yl)ethanone | 0.538 mmol, 0.129 g | ClC=1C(=NC=CN1)C1CCN(CC1)C(C)=O | C11H14ClN3O
reactant | 6-chloropyridin-3-ol | 1.08 mmol, 0.140 g | ClC1=CC=C(C=N1)O | C5H4ClNO
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | 1(4-(3-(6-chloropyridin-3-yloxy)pyrazin-2-yl)piperidin-1-yl)ethanone | ClC1=CC=C(C=N1)OC=1C(=NC=CN1)C1CCN(CC1)C(C)=O | C16H17ClN4O2
